US03957828
A solution of 11.1 g. of 2-bromobenzhydryl methyl ether in 23 ml. of tetrahydrofuran and 7 ml. of hexane is cooled to -50°C. and 22 ml. of butyllithium is introduced while maintaining the temperature below -50°C. The solution is stirred for 2 hours at -60° to -70°C. To the suspension is then added a solution of 5 g. of 4-oxo-tetrahydropyran in 5 ml. of tetrahydrofuran over a span of a few minutes. The mixture is stirred at -60°C. for 3 hours and at ambient temperature overnight. Ice-water is added, the organic layer is separated, the aqueous layer is extracted with methylene chloride and the combined organic solutions are dried over sodium sulfate. The solvent is removed under reduced pressure and subjected to column chromatography over alumina. Elution with benzene removes benzhydryl methyl ether, and the column is then eluted with diethyl ether. The solid obtained is heated at reflux in 60 ml. of glacial acetic acid, and then the solvent is removed under reduced pressure to leave a crystalline solid. This solid is recrystallized from hexane to give 1,2',3,3',5',6'-hexahydro-3-phenylspiro[isobenzofuran-1,4'-pyran] as colorless crystals, m.p. 132° - 134°C.

reactant | 2-bromobenzhydryl methyl ether | COC(C1=C(C=CC=C1)Br)C1=CC=CC=C1 | C14H13BrO
reactant | butyllithium | C(CCC)[Li]
reactant | 4-oxo-tetrahydropyran | O=C1CCOCC1 | C5H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1,2',3,3',5',6'-hexahydro-3-phenylspiro[isobenzofuran-1,4'-pyran] | C1(=CC=CC=C1)C1OC2(CCOCC2)C2=CC=CC=C12 | C18H18O2
